US06204221B1
3-Fluoro-5-chloro-2-pyridinecarboxamide
4.0 g of 3-fluoro-5chloro-2-pyridinecarbonyl chloride (Example H6) are added in portions to a stirred mixture of 26 ml of 30% aqueous ammonia solution and 4 ml of tetrahydrofuran. The yellowish suspension is subsequently stirred for 4 hours and filtered and the material on the filter is washed with water and n-hexane. After drying in vacuo at 40° C., 1.34 g of the desired compound are obtained as a white solid of melting point 162-164° C.

reactant | 3-fluoro-5chloro-2-pyridinecarbonyl chloride | 4.0 g | FC=1C(=NC=C(C1)Cl)C(=O)Cl | C6H2Cl2FNO
reactant | ammonia | 26 ml | N | H3N
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 3-Fluoro-5-chloro-2-pyridinecarboxamide | 1.34 g | FC=1C(=NC=C(C1)Cl)C(=O)N | C6H4ClFN2O
